US05753664
4-Acetyl-5-dimethylamino-2-methyl-3(2H)-pyridazinone
In chloroform was dissolved 5-dimethylamino-4-(1-hydroxy)ethyl-2-methyl-3(2H)-pyridazinone (355 mg) followed by addition of active manganese dioxide (2.0 g), and the mixture was stirred at 50° C. for 24 hours. After the oxidizing agent was filtered off, the filtrate was concentrated and the residue was washed with n-hexane and diethyl ether and dried. Yellow powder, 178 mg. 1 H-NMR (CDCl3) E: 2.6.7(3H,s), 2.94(6H,s), 3.69(3H,s), 7.66(1H,s).

reactant | 5-dimethylamino-4-(1-hydroxy)ethyl-2-methyl-3(2H)-pyridazinone | 355 mg | CN(C1=C(C(N(N=C1)C)=O)C(C)O)C | C9H15N3O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 2.0 g | [O-2].[O-2].[Mn+4]
product | 4-Acetyl-5-dimethylamino-2-methyl-3(2H)-pyridazinone | C(C)(=O)C=1C(N(N=CC1N(C)C)C)=O | C9H13N3O2
